US07648989B2
Preparation of 2-[2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-pyridin-4-yl]-acetamide
[2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-pyridin-4-yl]-acetic acid tert-butyl ester (475 mg, 1.32 mmol) is dissolved in a mixture of TFA and CH2Cl2 (10 ml/10 ml) and stirred at RT. After 1.5 h at RT, TLC analysis indicated complete conversion of starting material. The solvent is removed by rotary evaporation, and replaced by dry DMF (5 ml). Under an atmosphere of argon, carbonyl diimidazole (236 mg, 1.46 mmol) is added. After 3 h at RT, TLC analysis indicated complete conversion of the carboxylic acid. An aqueous solution of ammonia (25%, 20 ml) is added at RT. After 15 minutes at RT, solvents are removed under high vacuum. The residue is dissolved in CH2Cl2/MeOH (9:1) and purified by FCC (CH2Cl2/MeOH, slow gradient from 90:10 to 40:60) to yield the title compound. 1H NMR (d6-DMSO, 400 MHz): δ 2.69 (s, 3H), 2.93-3.18 (m, broad, 4H), 3.54 (s, 2H), 3.59-3.98 (m, broad, 4H), 6.95 (s, 1H), 7.02 (s, broad, 1H), 7.47 (s, broad, 1H), 8.45 (s, 1H). ES+−MS: 303.2 [M+H]+.

reactant | [2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-pyridin-4-yl]-acetic acid tert-butyl ester | 1.32 mmol, 475 mg | C(C)(C)(C)OC(CC1=CC(=NC=C1C(F)(F)F)N1CCN(CC1)C)=O | C17H24F3N3O2
reactant | carbonyl diimidazole | 1.46 mmol, 236 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ammonia | 20 ml | N | H3N
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-Methyl-piperazin-1-yl)-5-trifluoromethyl-pyridin-4-yl]-acetamide | CN1CCN(CC1)C1=NC=C(C(=C1)CC(=O)N)C(F)(F)F | C13H17F3N4O
